US05576324
2-(N-tert-Butoxycarbonyl-N-methylglycyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
2-Aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (2.3 g, 10 mmol) was dissolved in dimethylformamide (100 ml) while being cooled on ice. To the obtained mixture, N-tert-butoxycarbonyl-N-methylglycine (2.0 g, 11 mmol), WSC.HCl (2.0 g, 11.0 mmol), and HOBT (1.4 g, 11.0 mmol) were added, and the resultant mixture was stirred at room temperature overnight. The reaction mixture was subjected to distillation under reduced pressure. The resultant residue was extracted with chloroform after the pH was turned to acidic with HCl. The organic phase was washed with saturated aqueous NaCl solution, and dried. The solvent was distilled off under reduced pressure. The resultant residue was recrystallized from chloroform--methanol--ether. As a result, 2.8 g of the title compound was obtained as colorless powdery crystals (69.0%)

reactant | 2-Aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 10 mmol, 2.3 g | NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H14N2O2
reactant | N-tert-butoxycarbonyl-N-methylglycine | 11 mmol, 2.0 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C | C8H15NO4
reactant | WSC.HCl | 11.0 mmol, 2.0 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 11.0 mmol, 1.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(N-tert-Butoxycarbonyl-N-methylglycyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 2.8 g | C(C)(C)(C)OC(=O)N(CC(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1)C | C21H27N3O5
